US09107916B2
B. 4-[tert-butyl(dimethyl)silyl]oxybutanoyloxylithium
To a suspension of 4-hydroxybutanoyloxylithium (5.17 g, 41.03 mmol) and 1H-imidazole (4.19 g, 61.55 mmol) in DMF (20 mL) was added TBSCl (7.42 g, 49.04 mmol) in portions at r.t. The reaction mixture was then stirred overnight. The reaction solution was poured into water and extracted with ethyl acetate three times. The organic phase separated and washed with water twice, brine and dried with anhydrous Na2SO4. It was then concentrated to give the title compound as colorless oil (8.0 g, 89%). [M+H] Calc'd for C10H21LiO3Si, 225. Found, 225.

reactant | 4-hydroxybutanoyloxylithium | 41.03 mmol, 5.17 g | OCCCC(=O)O[Li]
reactant | 1H-imidazole | 61.55 mmol, 4.19 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 49.04 mmol, 7.42 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-[tert-butyl(dimethyl)silyl]oxybutanoyloxylithium | 8.0 g, 89% | [Si](C)(C)(C(C)(C)C)OCCCC(=O)O[Li] | InChI=1S/C10H22O3Si.Li/c1-10(2,3)14(4,5)13-8-6-7-9(11)12;/h6-8H2,1-5H3,(H,11,12);/q;+1/p-1
